US06437177B1
Step 2 Preparation of N-Hydroxy-2-hydroxy-2-[(4-methoxybenzenesulfonyl) methyl]-3-(N-(4-methoxybenzenecarbonyl)amino)-propionamide.
2-Hydroxy-2-[(4-methoxybenzenesulfonyl)methyl]-3-(N-(4-methoxybenzenecarbonyl)amino)-propionic acid (100 mg, 0.24 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiilnide hydrochloride (68 mg, 0.35 mmol), O-tert-butylhydroxylamine hydrochloride (118 mg, 0.944 mmol), and 4-methylmorpholine (131 mg, 0.354 mmol) are dissolved in 20 mL of methylene chloride. The reaction mixture is stirred under nitrogen for 6 hours. The solvent is removed under reduced pressure, and the residue is dissolved in ethyl acetate. The organic layer is washed with 1N sodium hydrogen sulfate, 5% sodium bicarbonate, and saturated brine and dried over magnesium sulfate. The solvent is removed to yield 71 mg of white solid which is recrystallized from methanol. The tert-butyl protecting group is removed by treatment with 50% trifluoroacetic acid in methylene chloride for 24 hours. The solvents are removed, and the crude product is purified by reverse phase chromatography on a C18 Vydac column using a water-acetonitrile elution system to yield the title compound as a white solid.

reactant | 2-Hydroxy-2-[(4-methoxybenzenesulfonyl)methyl]-3-(N-(4-methoxybenzenecarbonyl)amino)-propionic acid | 0.24 mmol, 100 mg | OC(C(=O)O)(CNC(=O)C1=CC=C(C=C1)OC)CS(=O)(=O)C1=CC=C(C=C1)OC | C19H21NO8S
reactant | O-tert-butylhydroxylamine hydrochloride | 0.944 mmol, 118 mg | Cl.C(C)(C)(C)ON
reactant | 4-methylmorpholine | 0.354 mmol, 131 mg | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | N-Hydroxy-2-hydroxy-2-[(4-methoxybenzenesulfonyl) methyl]-3-(N-(4-methoxybenzenecarbonyl)amino)-propionamide | 71 mg | ONC(C(CNC(=O)C1=CC=C(C=C1)OC)(CS(=O)(=O)C1=CC=C(C=C1)OC)O)=O | C19H22N2O8S
